US07994185B2
Step B: Methyl 2-methoxy-3-nitrobenzoate
To a solution of methyl 2-hydroxy-3-nitrobenzoate (26.8 g, 136 mmol) in DMF (200 mL) was added K2CO3 (61 g, 440 mmol). Then iodomethane (62 g, 436 mmol) was added dropwise to the mixture at rt. The mixture was stirred at 45° C. for 5 h. Then the mixture was cooled to rt and water was added. The reaction mixture was extracted with EtOAc (500 mL×2). The combined organic layers were washed with water successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the title compound of Step B (28.4 g, 98.8% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.10 (dd, J=1.8 Hz, 8.4 Hz, 1H), 8.00 (dd, J=1.3 Hz, 8.2 Hz, 1H), 7.40 (dd, J=8.2 Hz, 8.4 Hz, 1H), 3.87 (s, 3H), 3.85 (s, 3H).

reactant | methyl 2-hydroxy-3-nitrobenzoate | 136 mmol, 26.8 g | OC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C8H7NO5
reactant | K2CO3 | 440 mmol, 61 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 436 mmol, 62 g | IC | CH3I
reactant | water | O | H2O
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Methyl 2-methoxy-3-nitrobenzoate | 28.4 g, 98.8% yield | COC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO5
